US06310056B1
To the mixture of 15.48 ml of DMF and 80 ml of dichloromethane was added dropwise a solution of 18.32 ml of phosphorus oxychloride in 80 ml of dichloromethane under ice-cooling. The mixture was reacted at room temperature for 30 minutes, and a solution of imidazo[5,1-b]thiazole in 40 ml of chloromethane was added dropwise. After heating under reflux for 2.5 hours, the reaction mixture was poured onto ice, adjusted to pH 9.8 with a 5 N aqueous sodium hydroxide solution, extracted five times with 200 ml of dichloromethane, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:ethyl acetate=5:1-ethyl acetate alone—dichloromethane:methanol=10:1). As a low polar component, 5-formylimidazo[5,1-b]thiazole was obtained in a yield of 495 mg.

reactant | DMF | 15.48 ml | CN(C)C=O | C3H7NO
reactant | phosphorus oxychloride | 18.32 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | imidazo[5,1-b]thiazole | S1C=2N(C=C1)C=NC2 | C5H4N2S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | chloromethane | 40 ml | ClC | CH3Cl
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 5-formylimidazo[5,1-b]thiazole | C(=O)C1=NC=C2SC=CN21 | C6H4N2OS
